* C:\EE310_Group9_Water-Level-Sensor\LT SPICE MODELS\integrator\lab for transmitter.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 Offset N003 V+ 0 N004 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U2 N001 Offset V+ 0 N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R1 N001 N004 10k
R2 N002 N001 100k
R3 N003 N002 833333
C1 N004 N003 150p
V1 V+ 0 5
V2 Offset 0 2.5
.include LM324.lib
.tran 0 10m 0 1u
* Triangular wave and square wave with hysterisis generator
* R3 set up so that it should be 10khz at 150pf and 1khz at 1500pf
* using ideal opamps
* not working giving 17khz idk why
* Library below included based on ModelFile attribute of instance X§U1, X§U2 (C:\Users\realh\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
